US06326510B1
(b) N-Methoxy-N-methyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)cyclopropanecarboxamide
660 mg (3.3 mmol) of trimethylsulphoxonium iodide and 3 ml of DMSO are introduced into a three-necked flask under a stream of nitrogen. 100 mg (4.12 mmol) of sodium hydride (80% in oil) are added portionwise and the mixture is stirred until the evolution of gas has ceased. A solution of 900 mg (3 mmol) of (E)-N-methoxy-N-methyl-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)acrylamide in 15 ml of DMSO is then added dropwise and the mixture is stirred at room temperature for two hours. The reaction medium is poured into water and extracted with ethyl acetate, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (80/20). After evaporating the solvents, 400 mg (43%) of N-methoxy-N-methyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)cyclopropanecarboxamide are collected in the form of an oil.

reactant | trimethylsulphoxonium iodide | 3.3 mmol, 660 mg | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 4.12 mmol, 100 mg | [H-].[Na+]
reactant | (E)-N-methoxy-N-methyl-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)acrylamide | 3 mmol, 900 mg | CON(C(\C=C\C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)=O)C | C19H27NO2
reactant | water | O | H2O
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | N-Methoxy-N-methyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)cyclopropanecarboxamide | CON(C(=O)C1C(C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C | C20H29NO2
